US04146715
A mixture of 9-(2-hydroxyethoxymethyl)guanine (1.0 g) and dry dimethylformamide (50 ml) was heated on a steam bath until most of the solid had dissolved. It was then cooled to room temperature. Dry pyridine (10 ml) and propionic anhydride (2.9 ml) was added and the mixture stirred at room temperature overnight. Additional propionic anhydride (1.0 ml) was added and the mixture stirred for an additional 18 hr. The reaction mixture was diluted with ethyl acetate, chilled and the resulting solid removed by filtration. This was recrystallized from dimethylformamide to give 9-(2-propionyloxyethoxymethyl)guanine (0.9 g), m.p. 223°-226° C.

reactant | 9-(2-hydroxyethoxymethyl)guanine | 1.0 g | OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C8H11N5O3
reactant | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
reactant | propionic anhydride | 2.9 ml | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | propionic anhydride | 1.0 ml | C(CC)(=O)OC(CC)=O | C6H10O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 9-(2-propionyloxyethoxymethyl)guanine | 0.9 g | C(CC)(=O)OCCOCN1C=2N=C(NC(C2N=C1)=O)N | C11H15N5O4
